US07981903B2
To a solution of 5-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one (300 mg, 0.436 mmol) in THF (5 mL) was added (1-methylethyl)amine (1.4 mL, 17.44 mmol). The resulting mixture was let stir at rt for 2 h at which time it was diluted with ethyl acetate and washed with water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure. The residue was attempted to be purified via chromatography on SiO2 and afforded a yellow solid containing about 50% 6-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide mmol) as a yellow solid. This crude material was dissolved in 1,4-dioxane (6 mL) and transferred to a 20 ml microwave vessel. Water (2 mL) and a solution of 6M NaOH (2 ml) was added and reaction mixture heated in microwave at 120° C. for 10 minutes. Resulting brown solution was diluted with ethyl acetate and washed with a saturated sodium bicarbonate solution, water and a saturated brine solution. Organics were dried over sodium sulfate and solvents removed under reduced pressure to afford a brown solid that was purified via chromatography on SiO2 to afford 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-(1-methylethyl)benzamide (42 mg, 0.071 mmol) as an off white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.00 (d, J=6.59 Hz, 6 H) 1.81-1.92 (m, 2 H) 2.12 (br. s., 6 H) 2.60-2.73 (m, 2 H) 3.24 (s, 2 H) 3.69 (t, J=6.04 Hz, 2 H) 3.83 (s, 3 H) 3.90-4.03 (m, 1 H) 6.34 (d, J=0.92 Hz, 1 H) 6.81 (br. s., 1 H) 6.91-6.99 (m, 1 H) 7.38-7.51 (m, 2 H) 7.74-7.87 (m, 1 H) 8.41 (d, J=7.69 Hz, 2 H), 9.29 (s, 1 H) 11.30 (br. s., 1 H) (ESIMS (M+H)+=593)

reactant | 5-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-8,9-difluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one | 0.436 mmol, 300 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC2=C(C3=NC4=CC=C(C(=C4C(N31)=O)F)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C)OC)C | C34H31F2N7O5S
reactant | (1-methylethyl)amine | 17.44 mmol, 1.4 mL | CC(C)N | C3H9N
reactant | 6-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-2,3-difluoro-N-(1-methylethyl)benzamide | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=CC=C(C(=C2C(=O)NC(C)C)F)F)OC)C | C37H40F2N8O5S
reactant | NaOH | 6M, 2 ml | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | Water | 2 mL | O | H2O
product | 6-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-2,3-difluoro-N-(1-methylethyl)benzamide | 0.071 mmol, 42 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2)NC2=CC=C(C(=C2C(=O)NC(C)C)F)F)OC)C | C30H34F2N8O3
